US08034812B2
Production of N-{6-[4-({[(phenylacetyl)amino]thiocarbonyl}amino)phenoxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide
To a solution of phenylacetyl chloride (342 μL, 2.59 mmol) in acetonitrile (8.0 mL) was added potassium thiocyanate (0.31 g, 3.23 mmol), and the mixture was stirred at 50° C. for 1 hr. After cooling the mixture to room temperature, the solvent was evaporated under reduced pressure. Saturated brine was added to the residue, and the mixture was extracted with ethyl acetate, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. Toluene/ethanol (2.0 mL/2.0 mL) was added to the residue, N-[6-(4-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.65 mmol) was added to the mixture, and the mixture was stirred at room temperature for 1 hr. Saturated brine was added to the reaction mixture, and the mixture was extracted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/3) to give the title compound (164 mg, 51%) as white crystals.

reactant | phenylacetyl chloride | 2.59 mmol, 342 μL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | potassium thiocyanate | 3.23 mmol, 0.31 g | [S-]C#N.[K+]
reactant | Toluene ethanol | 2.0 mL | C1(=CC=CC=C1)C.C(C)O
reactant | N-[6-(4-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.65 mmol, 200 mg | NC1=CC=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=C1 | C16H15N5O2
solvent | acetonitrile | 8.0 mL | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | N-{6-[4-({[(phenylacetyl)amino]thiocarbonyl}amino)phenoxy]imidazo[1,2-b]pyridazin-2-yl}cyclopropanecarboxamide | 164 mg, 51% | C1(=CC=CC=C1)CC(=O)NC(=S)NC1=CC=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=C1 | C25H22N6O3S
